### PR TITLE
feat(Mathlib/RingTheory/Int/Basic): add eq_pow_of_mul_eq_pow for Nat

### PR DESCRIPTION
**Pull request by upobir**
---

This pr adds theorems analogous to [Int.sq_of_isCoprime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Int/Basic.html#Int.sq_of_isCoprime), but with generic power and both left and right versions. I had asked in [this zulip thread](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Nat.20and.20left.2C.20right.20version.20of.20Int.2Esq_of_isCoprime) before to make sure this theorem was missing.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Int/Basic.lean [hunk 1]
```diff
@@ -131,3 +131,20 @@ theorem eq_pow_of_mul_eq_pow_odd {a b c : ℤ} (hab : IsCoprime a b) {k : ℕ} (
   ⟨eq_pow_of_mul_eq_pow_odd_left hab hk h, eq_pow_of_mul_eq_pow_odd_right hab hk h⟩
 
 end Int
+
+namespace Nat
+
+theorem eq_pow_of_mul_eq_pow_left {a b c k : ℕ} (hab : Coprime a b) (h : a * b = c ^ k) :
+  ∃ d, a = d ^ k := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Int/Basic.lean:138]:
```suggestion
    ∃ d, a = d ^ k := by
```

File: Mathlib/RingTheory/Int/Basic.lean [hunk 2]
```diff
@@ -131,3 +131,20 @@ theorem eq_pow_of_mul_eq_pow_odd {a b c : ℤ} (hab : IsCoprime a b) {k : ℕ} (
...
+  obtain ⟨d, hd⟩ := exists_associated_pow_of_mul_eq_pow (isUnit_iff_eq_one.mpr hab) h
+  use d
+  rw [associated_iff_eq.mp hd]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Int/Basic.lean:141]: This can use [exists_eq_pow_of_mul_eq_pow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GCDMonoid/Basic.html#exists_eq_pow_of_mul_eq_pow):
```suggestion
  exists_eq_pow_of_mul_eq_pow (isUnit_iff_eq_one.mpr hab.gcd_eq_one) h
```

But then I wonder if we still need the Nat specialization

File: Mathlib/RingTheory/Int/Basic.lean [hunk 3]
```diff
@@ -131,3 +131,20 @@ theorem eq_pow_of_mul_eq_pow_odd {a b c : ℤ} (hab : IsCoprime a b) {k : ℕ} (
   ⟨eq_pow_of_mul_eq_pow_odd_left hab hk h, eq_pow_of_mul_eq_pow_odd_right hab hk h⟩
 
 end Int
+
+namespace Nat
+
+theorem eq_pow_of_mul_eq_pow_left {a b c k : ℕ} (hab : Coprime a b) (h : a * b = c ^ k) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Int/Basic.lean:137]: These can go into `Mathlib/Algebra/GCDMonoid/Nat.lean`. (The `Int` ones can't, because `IsCoprime` isn't imported there.)

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks! Some suggestions below

**Comment by upobir** [comment]
I had not noticed exists_eq_pow_of_mul_eq_pow before, the results are not really useful now that I know exists_eq_pow_of_mul_eq_pow exists. So I am closing the pr
